US06166027
136 mg of 1,1-dichloro-3-[1 -(2-fluorobenzyl)indazole-3-carboxamido]-but-1-ene (0.267 mmol) and 47 mg of sodium methylate were stirred in 0.6 ml oil N-methylpyrrolidone at 100° C. under argon overnight. The crude mixture was cooled and purified directly by column chromatography (SiO2). 24 mg (20%) of 2-[1-(2-fluorobenzyl)-indazol-3-yl]-5-methoxymethyl4-methyl-oxazole were isolated as yellowish crystals.

reactant | 1,1-dichloro-3-[1 -(2-fluorobenzyl)indazole-3-carboxamido]-but-1-ene | 0.267 mmol, 136 mg | ClC(=CC(C)NC(=O)C1=NN(C2=CC=CC=C12)CC1=C(C=CC=C1)F)Cl | C19H16Cl2FN3O
reactant | sodium methylate | 47 mg | C[O-].[Na+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2-[1-(2-fluorobenzyl)-indazol-3-yl]-5-methoxymethyl4-methyl-oxazole | 24 mg, 20% | FC1=C(CN2N=C(C3=CC=CC=C23)C=2OC(=C(N2)C)COC)C=CC=C1 | C20H18FN3O2
